US07829570B2
tert-Butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate
The title compound was prepared from tert-butyl 4-[7-amino-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate in the same manner as described for the preparation of tert-butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate: RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 16.07 min; MS: MH+ 410.2

reactant | tert-butyl 4-[7-amino-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)[N+](=O)[O-])C=2CCN(CC2)C(=O)OC(C)(C)C | C21H23N7O4
reactant | tert-butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | tert-Butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)N)C2CCN(CC2)C(=O)OC(C)(C)C | C21H27N7O2
